US05661147
4-(5-chloropentylamino)-7-ethylamino-6-nitroquinazoline
Triethylamine (14.9 ml, 106.9 mmol) and 5-amino-1-pentanol (2.47 ml, 22.7 mmol) were added to a 1,4-dioxane solution (100 ml) of 4-chloro-7-ethylamino-6-nitroquinazoline (5.74 g, 22.7 mmol) obtained in Reference Example 13 under ice-cooling and the mixture was stirred at room temperature for 19 hours. The precipitated solid was filtered off, washed successively with water and ether and dried. To a solution of the resulting solid in 1,2-dichloroethane (40 ml), thionyl chloride (4.80 ml, 65.8 mmol) was added and the mixture was heated under reflux for 3 hours. After the solvent was distilled off, ice and a saturated aqueous solution of sodium bicarbonate were added and the mixture was extracted with chloroform. The organic layer was dried over a drying agent (magnesium sulfate), the drying agent was filtered off and the filtrate was concentrated under reduced pressure to give 7.15 g (93.3%) of the title compound as a crude product.

reactant | Triethylamine | 106.9 mmol, 14.9 ml | C(C)N(CC)CC | C6H15N
reactant | 5-amino-1-pentanol | 22.7 mmol, 2.47 ml | NCCCCCO | C5H13NO
reactant | 4-chloro-7-ethylamino-6-nitroquinazoline | 22.7 mmol, 5.74 g | ClC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])NCC | C10H9ClN4O2
reactant | thionyl chloride | 65.8 mmol, 4.80 ml | S(=O)(Cl)Cl | Cl2OS
solvent | 1,2-dichloroethane | 40 ml | ClCCCl | C2H4Cl2
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 4-(5-chloropentylamino)-7-ethylamino-6-nitroquinazoline | 7.15 g, 93.3% | ClCCCCCNC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])NCC | C15H20ClN5O2
